US08455483B2
b) 5-(2-(tert-Butyldimethylsilyloxy)ethyl)-2-chlorothiophene-3-carbaldehyde
tert-Butyl(2-(5-chlorothiophen-2-yl)ethoxy)dimethylsilane [Aromatic Intermediate 17, step a] (0.8 g) was added dropwise over 5 min to a stirred solution of butyllithium (2.5M in hexanes, 1.73 mL) and 2,2,6,6-tetramethylpiperidine (0.73 mL) in THF (25 mL) at −78° C. The resulting mixture was stirred for 2 h then DMF (0.67 mL) was added. The mixture was stirred for a further 1 h and allowed to warm to RT. The reaction mixture was cautiously poured into aqueous HCl (0.5M, 200 mL) and extracted with ethyl acetate (3×100 mL). The combined organic phases were washed with water (2×100 mL) and brine (100 mL), then dried over sodium sulphate, filtered and evaporated. The resulting oil was purified by silica gel chromatography eluting with isohexane to 5% ether in isohexane gradient. The fractions containing product were combined and evaporated to give the subtitled compound as a clear oil. Yield 0.80 g.

reactant | tert-Butyl(2-(5-chlorothiophen-2-yl)ethoxy)dimethylsilane | C(C)(C)(C)[Si](C)(C)OCCC=1SC(=CC1)Cl | C12H21ClOSSi
reactant | butyllithium | 2.5M, 1.73 mL | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | 0.73 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | HCl | 0.5M, 200 mL | Cl | ClH
reactant | THF | 25 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.67 mL | CN(C)C=O | C3H7NO
product | 5-(2-(tert-Butyldimethylsilyloxy)ethyl)-2-chlorothiophene-3-carbaldehyde | [Si](C)(C)(C(C)(C)C)OCCC1=CC(=C(S1)Cl)C=O | C13H21ClO2SSi
